US08486950B2
A solution of 2-bromopyridin-4-amine (0.74 g, 4.3 mmol) in DMF (5 mL) was added to a cooled (0° C.) mixture of NaH (0.31 g, 7.82 mmol, 60% in mineral oil) in DMF (15 mL). The resulting mixture was stirred for 20 minutes at 0° C. and then a solution of 2,6-dichlorobenzoyl chloride (0.82 g, 3.91 mmol) in DMF (5 mL) was added dropwise. The reaction was stirred at 0° C. for 4 hours and then poured onto ice-water (20 mL). The precipitate was collected and filtrate was extracted by EtOAc (2×50 mL). The combined organic extracts were dried over Na2SO4 and concentrated under reduced pressure. The resulting solid was combined with the precipitate to afford N-(2-bromopyridin-4-yl)-2,6-dichlorobenzamide (1.0 g, Yield: 74%). 1HNMR (DMSO-d6, 400 MHz): δ 11.41 (s, 1H), 8.33 (d, J=5.6 Hz, 1H), 7.99 (d, J=1.6 Hz, 1H), 7.64-7.54 (m, 4H). LCMS (ESI) m/z: 345.0 [M+H+].

reactant | 2-bromopyridin-4-amine | 4.3 mmol, 0.74 g | BrC1=NC=CC(=C1)N | C5H5BrN2
reactant | NaH | 7.82 mmol, 0.31 g | [H-].[Na+]
reactant | 2,6-dichlorobenzoyl chloride | 3.91 mmol, 0.82 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(2-bromopyridin-4-yl)-2,6-dichlorobenzamide | 1.0 g, Yield: 74% | BrC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H7BrCl2N2O
